US04279637
PREPARATION OF ETHYL [4-(PHENYLSULFINYL)-3-BUTOXYPHENYL]-CARBAMATE
4-(Phenylsulfinyl)-3-butoxybenzenamine (0.1 mole) and pyridine (50 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and are cooled to about 5° C. Ethyl chloroformate (0.125 mole) is added, with stirring, at about 5° C. Stirring is continued for a period of about 30 minutes at about 5° C., then for an additional 16 hours at room temperature. The mixture is then washed with 2 portions of water (50 ml), dried and the solvent is then removed to yield the desired product ethyl [4-(phenylsulfinyl)-3-butoxyphenyl]carbamate.

reactant | 4-(Phenylsulfinyl)-3-butoxybenzenamine | 0.1 mole | C1(=CC=CC=C1)S(=O)C1=C(C=C(C=C1)N)OCCCC | C16H19NO2S
reactant | Ethyl chloroformate | 0.125 mole | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl [4-(phenylsulfinyl)-3-butoxyphenyl]carbamate | C1(=CC=CC=C1)S(=O)C1=C(C=C(C=C1)NC(OCC)=O)OCCCC | C19H23NO4S
